US05464781
A mixture of 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid (2.3 g) , 10% palladium on charcoal (0.5 g), IMS (250 ml) and concentrated hydrochloric acid (0.4 ml) was shaken under an atmosphere of hydrogen until uptake of hydrogen ceased. The catalyst was removed by filtration and the filtrate was evaporated. The residue was triturated with hot ethyl acetate and hot filtered to give 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]propionic acid hydrochloride, m.p. 213°-216° C.

reactant | 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]acrylic acid | 2.3 g | C(C)OC=1C(=NC2=NC=C(C(=C2C1)NC1=CC=C(C=C1)OC)C(=O)OCC)C=CC(=O)O | C23H23N3O6
reactant | hydrochloric acid | 0.4 ml | Cl | ClH
reactant | hydrogen | [H][H] | H2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 3-[3-ethoxy-6-ethoxycarbonyl-5-(4-methoxyanilino)-1,8-naphthyridin-2-yl]propionic acid hydrochloride | Cl.C(C)OC=1C(=NC2=NC=C(C(=C2C1)NC1=CC=C(C=C1)OC)C(=O)OCC)CCC(=O)O | InChI=1S/C23H25N3O6.ClH/c1-4-31-19-12-16-21(25-14-6-8-15(30-3)9-7-14)17(23(29)32-5-2)13-24-22(16)26-18(19)10-11-20(27)28;/h6-9,12-13H,4-5,10-11H2,1-3H3,(H,27,28)(H,24,25,26);1H
